US06919331B2
A suspension of 1-isopropyl-1,3-dihydro-benzoimidazol-2-one (0.79 g, 4.5 mmol) and Cs2CO3 (4.40 g, 13.5 mmol) in DMF (50 mL) was stirred for 30 minutes then 2-chloromethyl-1-(3-methyl-butyl)-1H-benzoimidazole-5-carbonitrile (1.34 g, 4.5 mmol) was added and the mixture stirred for 5 h at ambient temperature. The reaction mixture was diluted with EtOAc (50 mL) and filtered. The filtrate was evaporated to dryness and the residue taken up in EtOAc (100 mL), washed with water and brine. The organic layer was dried over MgSO4 and evaporated. The residue was purified by flash chromatography (gradient, hexanes:EtOAc 3:1 to 1:1) to give 1.71 g (95%) of 2-(3-isopropyl-2-oxo-2,3-dihydro-benzoimidazol-1-ylmethyl)-1-(3-methyl-butyl)-1H-benzoimidazole-5-carbonitrile as a white solid.

reactant | 1-isopropyl-1,3-dihydro-benzoimidazol-2-one | 4.5 mmol, 0.79 g | C(C)(C)N1C(NC2=C1C=CC=C2)=O | C10H12N2O
reactant | Cs2CO3 | 13.5 mmol, 4.40 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 2-chloromethyl-1-(3-methyl-butyl)-1H-benzoimidazole-5-carbonitrile | 4.5 mmol, 1.34 g | ClCC1=NC2=C(N1CCC(C)C)C=CC(=C2)C#N | C14H16ClN3
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | 2-(3-isopropyl-2-oxo-2,3-dihydro-benzoimidazol-1-ylmethyl)-1-(3-methyl-butyl)-1H-benzoimidazole-5-carbonitrile | 1.71 g, 95% | C(C)(C)N1C(N(C2=C1C=CC=C2)CC2=NC1=C(N2CCC(C)C)C=CC(=C1)C#N)=O | C24H27N5O
